US04025505
The mixture of 6.5 g of N-(4-nitro-o-tolyl)-4-dimethylcarbamoylphthalimide, 3.0 g of Raney nickel and 270 ml of ethyl acetate is hydrogenated at 3.1 atm. and room temperature until the hydrogen uptake ceases. It is filtered, the filtrate evaporated, the residue washed with hot ethanol and dried, to yield the N-(4-amino-o-tolyl)-4-dimethylcarbamoylphthalimide melting at 214°-217°.

reactant | N-(4-nitro-o-tolyl)-4-dimethylcarbamoylphthalimide | 6.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(N(C)C)=O)=O | C18H15N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
solvent | ethyl acetate | 270 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-dimethylcarbamoylphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C(N(C)C)=O)=O | C18H17N3O3
